* source OTA
M_M1         N00520 V- N00366 N00366 Mbreakp  
+ L=8U  
+ W=120U         
M_M2         OUT_INT V+ N00366 N00366 MbreakP  
+ L=8U  
+ W=120U         
M_M8         N00347 N00347 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
M_M6         OUT OUT_INT VSS VSS MbreakN  
+ L=10U  
+ W=100U         
I_Idc         N00347 VSS DC 25uAdc  
V_VCC+         VDD 0 5Vdc
M_M5         N00366 N00347 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
M_M7         OUT N00347 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
V_VCC-         0 VSS 5Vdc
M_M4         OUT_INT N00520 VSS VSS MbreakN  
+ L=10U  
+ W=50U         
M_M3         N00520 N00520 VSS VSS Mbreakn  
+ L=10U  
+ W=50U         
V_V+         V+ 0 DC 0 AC 1
+SIN 0 1m 10 0 0 180
C_Cc         N060120 OUT  {Cc_var}  TC=0,0 
R_Rc         OUT_INT N060120  {Rc_var} TC=0,0 
V_V1         V+1 0  AC 1
+PULSE 0 5 0 1p 1p 100u 200u
I_Idc1         N07705 VSS DC 25uAdc  
C_Cc1         N080730 OUT_BIS  {Cc_var}  TC=0,0 
M_M16         N07789 N07789 VSS VSS Mbreakn  
+ L=10U  
+ W=50U         
M_M14         OUT_BIS N07705 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
M_M10         N07797 V+1 N07709 VDD MbreakP  
+ L=8U  
+ W=120U         
M_M11         N07705 N07705 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
M_M12         OUT_BIS N07797 VSS VSS MbreakN  
+ L=10U  
+ W=100U         
M_M15         N07797 N07789 VSS VSS MbreakN  
+ L=10U  
+ W=50U         
R_Rc1         N07797 N080730  {Rc_var} TC=0,0 
M_M9         N07789 OUT_BIS N07709 VDD Mbreakp  
+ L=8U  
+ W=120U         
M_M13         N07709 N07705 VDD VDD MbreakP  
+ L=10U  
+ W=150U         
E_E1         V- 0 V+ 0 -1
C_CL         0 OUT  50p  TC=0,0 
C_CL1         0 OUT_BIS  50p  TC=0,0 
.PARAM  cc_var=5p rc_var=100k
